US06897227B2
2(4-Tolylsulfonyl)ethyl 4-(2-amino-4-methoxy-phenyl)aminosulfonyl-2-(2-[4-tolylsulfonyl]-ethoxycarbonylmethoxy)phenoxyacetate (Intermediate A18)
2(4-Tolylsulfonyl)ethyl 4-(4-methoxy-2-nitro-phenyl)aminosulfonyl-2-(2-[4-tolylsulfonyl]ethoxycarbonylmethoxy)phenoxyacetate (Intermediate A17, 6.6 g, 0.0080 mol) was hydrogenated using platinum oxide as catalyst. The mixture was filtered and concentrated. After drying at high vacuum, the residual product, title compound, weighed 5.9 g (93%).

reactant | 2(4-Tolylsulfonyl)ethyl 4-(4-methoxy-2-nitro-phenyl)aminosulfonyl-2-(2-[4-tolylsulfonyl]ethoxycarbonylmethoxy)phenoxyacetate | 0.0080 mol, 6.6 g | COC1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=C(OCC(=O)OCCS(=O)(=O)C2=CC=C(C=C2)C)C=C1)OCC(=O)OCCS(=O)(=O)C1=CC=C(C=C1)C)[N+](=O)[O-] | C35H36N2O15S3
catalyst | platinum oxide | [Pt]=O
product | 2(4-Tolylsulfonyl)ethyl 4-(2-amino-4-methoxy-phenyl)aminosulfonyl-2-(2-[4-tolylsulfonyl]-ethoxycarbonylmethoxy)phenoxyacetate | NC1=C(C=CC(=C1)OC)NS(=O)(=O)C1=CC(=C(OCC(=O)OCCS(=O)(=O)C2=CC=C(C=C2)C)C=C1)OCC(=O)OCCS(=O)(=O)C1=CC=C(C=C1)C | C35H38N2O13S3
